US07786165B2
methyl 4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}benzoate
To a solution of 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde (1.02 g, 5.0 mmol) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (200 mg, 5.27 mmol) at 0° C., and the mixture was stirred at 0° C. for 1 hr. Sodium sulfate decahydrate (1.0 g) was added to the reaction mixture, and the mixture was allowed to warm to room temperature and stirred for 30 min. The insoluble material was filtered off, and the filtrate was concentrated to give a colorless oil. To this oil were added methyl 4-hydroxybenzoate (910 mg, 6.0 mmol), tributylphosphine (1.61 g, 8.0 mmol) and tetrahydrofuran (10 mL), and 1,1′-(azodicarbonyl)dipiperidine (1.50 g, 5.94 mmol) was added at room temperature. The mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (10%-65% ethyl acetate/hexane) to give the title compound (925 mg, yield 54%, 2 steps) as a yellow oil.

reactant | 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 5.0 mmol, 1.02 g | FC1=CC=C(C=C1)C1=C(C=NN1C)C=O | C11H9FN2O
reactant | lithium aluminum hydride | 5.27 mmol, 200 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 1.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl 4-hydroxybenzoate | 6.0 mmol, 910 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | tributylphosphine | 8.0 mmol, 1.61 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.94 mmol, 1.50 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 4-{[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]methoxy}benzoate | 925 mg, yield 54% | FC1=CC=C(C=C1)C1=C(C=NN1C)COC1=CC=C(C(=O)OC)C=C1 | C19H17FN2O3
